US06177400B1
Preparation of (4,6,6-trimethyl-1-cyclohexen-1-yl)methyl acetate
A mixture of 4,6,6-trimethyl-1-cyclohexene-1-methanol (3 g, 19.5 mmole) and acetic anhydride (2.4 g, 24 mmole) was heated to 70° during 3 h, then distilled at a bath temperature of 70°/0.5 hPa, to obtain 3.27 g (86%) of the desired product.

reactant | 4,6,6-trimethyl-1-cyclohexene-1-methanol | 19.5 mmole, 3 g | CC1CC=C(C(C1)(C)C)CO | C10H18O
reactant | acetic anhydride | 24 mmole, 2.4 g | C(C)(=O)OC(C)=O | C4H6O3
product | (4,6,6-trimethyl-1-cyclohexen-1-yl)methyl acetate | 3.27 g, 86% | C(C)(=O)OCC1=CCC(CC1(C)C)C | C12H20O2
